US07777047B2
2-(2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
To a mixture of (2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (0.25 g), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (0.13 g) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.16 g) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 15 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:methanol=10:0-8:2), and the obtained pale-brown solid was washed with ethyl acetate-hexane to give the title compound (143 mg, yield 57%) as pale-brown crystals. MS: 459 (MH+). melting point 227-228° C.

reactant | (2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 0.25 g | COC1=C(C=CC=C1)S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)C | C21H21N3O5S2
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.16 g | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 143 mg, yield 57% | COC1=C(C=CC=C1)S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)N)C | C21H22N4O4S2
